US06025374
b) (S)-2-[5-(3-Methyl-2-oxo-1,3-oxazolidin-4-ylmethyl)-1H-indol-3-yl]ethyl Alcohol
Prepared from (S)-3-methyl-4-(3-iodo-4-aminobenzyl)-1,3-oxazolidin-2-one and 1,4-bis-triethylsilyl-3-butyn-1-ol as described for Intermediate 2, δ (360 MHz, D6 -DMSO) 2.72-2.84 (6H, m, CH of CH2, CH2 and N--Me), 3.13 (1H, dd, J=3.8 and 13.5Hz, CH of CH2), 3.61-3.67 (2H, m, CH2), 3.94-4.02 (2H, m, CH2), 4.11-4.17 (1H, m, CH), 4.58 (1H, t, J=5.3Hz, OH), 6.93 (1H, dd, J=1.5 and 8.3Hz, Ar--H), 7.10 (1H, d. J=1.5Hz, Ar--H), 7.26 (1H, d, J=8.3Hz, Ar--H), 7.38 (1H, s, Ar--H), 10.72 (1H, s, NH).

reactant | (S)-3-methyl-4-(3-iodo-4-aminobenzyl)-1,3-oxazolidin-2-one | CN1C(OC[C@@H]1CC1=CC(=C(C=C1)N)I)=O | C11H13IN2O2
reactant | 1,4-bis-triethylsilyl-3-butyn-1-ol | C(C)[Si](C(CC#C[Si](CC)(CC)CC)O)(CC)CC | C16H34OSi2
solvent | DMSO | CS(=O)C | C2H6OS
product | (S)-2-[5-(3-Methyl-2-oxo-1,3-oxazolidin-4-ylmethyl)-1H-indol-3-yl]ethyl Alcohol | CN1C(OC[C@@H]1CC=1C=C2C(=CNC2=CC1)CCO)=O | C15H18N2O3
